US07956188B2
In a similar procedure to Stage 2, Step 1 of Example 5, 3-iodo-6-hydroxy-quinoline was reacted with chloro-methylsulfanyl-acetic acid ethyl ester to give (3-iodo-quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester as a yellow coloured solid.

reactant | 3-iodo-6-hydroxy-quinoline | IC=1C=NC2=CC=C(C=C2C1)O | C9H6INO
reactant | chloro-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)Cl)=O | C5H9ClO2S
product | (3-iodo-quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)OC=1C=C2C=C(C=NC2=CC1)I)=O | C14H14INO3S
